US07495110B2
Stage 1: 4-[(diisobutylamino)methyl]-N-(3-{methyl[2-(4-pyridinyl)ethyl]amino}propyl)-1,2-benzenediamine
A molar solution of borane-tetrahydrofuran complex (6.25 ml, 15 eq) is added dropwise to a solution of N,N-diisobutyl-4-({3-[methyl(2-pyridin-4-ylethyl)amino]propyl}amino)-3-nitrobenzamide (200 mg, 1 eq) in tetrahydrofuran (3 ml) cooled down to 0° C. The mixture is heated under reflux for 20 hours then cooled down to 0° C. and hydrolysed with a 6N aqueous solution of hydrochloric acid (12 ml). After 1 hour 30 minutes under reflux, the mixture is cooled down to 0° C. and brought to basic pH by a 6N aqueous solution of soda. After adding ethyl acetate, decanting and extracting, the organic phases are combined, followed by washing with salt water, drying over sodium sulphate and evaporating under reduced pressure. Purification by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 8:2) produces the expected compound in the form of an oil (92 mg, 51% yield).

reactant | N,N-diisobutyl-4-({3-[methyl(2-pyridin-4-ylethyl)amino]propyl}amino)-3-nitrobenzamide | 200 mg, 1 eq | C(C(C)C)N(C(C1=CC(=C(C=C1)NCCCN(CCC1=CC=NC=C1)C)[N+](=O)[O-])=O)CC(C)C | C26H39N5O3
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-[(diisobutylamino)methyl]-N-(3-{methyl[2-(4-pyridinyl)ethyl]amino}propyl)-1,2-benzenediamine | C(C(C)C)N(CC(C)C)CC=1C=C(C(=CC1)NCCCN(CCC1=CC=NC=C1)C)N | C26H43N5
